US06608078B2
1-Benzyl-3-methyl-piperidin-4-one (50 g, 246 mmole) was added to the stirred suspension of sodium hydride (12.0 g, 300.0 mmole) in tetrahydrofuran (500 ml) at ambient temperature and stirring was continued for 1 hr. Ethyl iodide (42.5 ml, 520.0 mmole) in dry tetrahydrofuran (100 ml) was added it at 0-5° C. The resulting mixture stirred at room temperature for 18 hr, water (100 ml) and ethyl acetate (800 ml) were added respectively. Organic layer was separated, dried (Na2SO4) and concentrated to give crude product, which was purified through column chromatography. Elute from 5% ethyl acetate in hexane afforded 1-benzyl-3,5-diethyl-3-methylpiperidin-4-one. Yield 12.0 g (19%), C17H25NO, m/z 260 (M+1).

reactant | 1-Benzyl-3-methyl-piperidin-4-one | 246 mmole, 50 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
reactant | sodium hydride | 300.0 mmole, 12.0 g | [H-].[Na+]
reactant | Ethyl iodide | 520.0 mmole, 42.5 ml | C(C)I | C2H5I
reactant | water | 100 ml | O | H2O
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-3,5-diethyl-3-methylpiperidin-4-one | C(C1=CC=CC=C1)N1CC(C(C(C1)CC)=O)(C)CC | C17H25NO
